### PR TITLE
feat(dataflow): definition of abstract domain and constant domain

### PR DESCRIPTION
**Pull request by axelcool1234**
This implements:
- `Set`
- `Top`, `Bot`, `OrderTop`, `OrderBot`, and `BoundedOrder`
- `Join`
- `JoinSemilattice`
- `AbstractDomain` (which is `BoundedOrder` + `JoinSemilattice` + `\gamma`)
- `ConstantDomain`, an instance of `AbstractDomain`
- notation for `Set`, `Top`, `Bot`, and `Join`

### CODE REVIEW

**Review by regehr — APPROVED** [review]
ok... so poison is hidden inside of LLVM.int, so this should be equivalent to the lattice I was working with yesterday. LGTM!

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+  join : Domain → Domain → Domain
+
+  /-- The join is an upper bound on the first argument. -/
+  le_join_left (a b : Domain) : a ≤ join a b
+
+  /-- The join is an upper bound on the second argument. -/
+  le_join_right (a b : Domain) : b ≤ join a b
+
+  /-- The join is the least upper bound. -/
+  join_le (a b c : Domain) : a ≤ c → b ≤ c → join a b ≤ c
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: do you need top and bottom too?

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+Each abstract value denotes a set of concrete values, represented as a predicate 
+`ConcreteValue → Prop`.
+-/
+class AbstractDomain (AbstractValue : Type) (ConcreteValue : Type)
+    extends JoinSemilattice AbstractValue where
+  /--
+  Concretization. Given an abstract value, returns the predicate describing the
+  set of concrete values it denotes.
+  -/
+  γ : AbstractValue → ConcreteValue → Prop
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: I think it would be more clear if you defined `def Set alpha := alpha -> Prop` and use it to denote a set of concrete values. Then you can define notation and a lattice structure on it. cf https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Defs.html#Set

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+
+  /--
+  The order coincides with concretization inclusion.
+  Monotonicity (soundness of the order): a ≤ b → γ a ⊆ γ b
+  Reflection (completeness of the order): γ a ⊆ γ b → a ≤ b
+  -/
+  le_iff_γ (a b : AbstractValue) : a ≤ b ↔ ∀ c, γ a c → γ b c
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: This looks a bit fishy to me, because it's very strong.

If you look at page 3 there https://dl.acm.org/doi/pdf/10.1145/2676726.2676966 the figure gives an axiomatisation of gamma which seems more minimal.

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 4]
```diff
@@ -0,0 +1,165 @@
...
+inductive AbstractConstant where
+  | top
+  | bottom
+  | poison
+  | constant (value : KnownConstant)
+deriving BEq, DecidableEq, TypeName
+
+namespace AbstractConstant
+
+def γ (absVal : AbstractConstant) : ConcreteConstant → Prop :=
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: If we had nice notation for `Set` we could write emptyset and top instead of constant functions.

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 5]
```diff
@@ -0,0 +1,165 @@
...
+  value : Data.LLVM.Int bitwidth
+deriving BEq, DecidableEq
+
+/-- Abstract values used by sparse constant propagation. -/
+inductive AbstractConstant where
+  | top
+  | bottom
+  | poison
+  | constant (value : KnownConstant)
+deriving BEq, DecidableEq, TypeName
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:28]: Why not this one?
```suggestion
inductive AbstractConstant where
  | top
  | bottom
  | constant (value : ConcreteConstant)
deriving BEq, DecidableEq, TypeName
```

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 6]
```diff
@@ -0,0 +1,165 @@
...
+  le_iff_γ := le_iff_γ
+  le_refl := le_refl
+  le_trans := le_trans
+  le_antisymm := le_antisymm
+  join := .join
+  le_join_left := le_join_left
+  le_join_right := le_join_right
+  join_le := join_le
+
+instance : AbstractDomain AbstractConstant ConcreteConstant := ConstantDomain
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: why not this?
```suggestion
instance : AbstractDomain AbstractConstant ConcreteConstant where
  le := le
  γ := γ
  le_iff_γ := le_iff_γ
  le_refl := le_refl
  le_trans := le_trans
  le_antisymm := le_antisymm
  join := .join
  le_join_left := le_join_left
  le_join_right := le_join_right
  join_le := join_le


```

**Review by ineol — COMMENTED** [review]
Thank you! I have a few questions but it looks good already :)

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
+module
+
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/AbstractDomain.lean:2]: Can you add a toplevel comment with `/-! -/` to explain what this file contains?

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 8]
```diff
@@ -0,0 +1,165 @@
+module
+
+public import Veir.Data.LLVM.Int.Basic
+public import Veir.Analysis.DataFlow.Domains.AbstractDomain
+
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:5]: Can you add a toplevel comment with `/-! -/` to explain what this file contains?

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 9]
```diff
@@ -0,0 +1,165 @@
...
+structure KnownConstant where
+  bitwidth : Nat
+  value : BitVec bitwidth
+deriving BEq, DecidableEq
+
+/-- Concrete integer values tracked by the constant domain. -/
+structure ConcreteConstant where
+  bitwidth : Nat
+  value : Data.LLVM.Int bitwidth
+deriving BEq, DecidableEq
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: What is the difference between these two structures? Is there a reason why we do not only use `ConcreteConstant`?

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 10]
```diff
@@ -0,0 +1,165 @@
...
+
+/-- Abstract values used by sparse constant propagation. -/
+inductive AbstractConstant where
+  | top
+  | bottom
+  | poison
+  | constant (value : KnownConstant)
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: This two values should be merged if we are using `ConcreteConstant` only

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 9 above)
Comment (math-fehr) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: In general, having only one of these structures would make the code easier to reason about.

**Review by math-fehr — COMMENTED** [review]
Nice! I added a few comments, but otherwise that looks good to me!
Leo is more knowledgeable on which properties to actually track, so I didn't review this part.

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean (hunk 1 above)
Comment (regehr) [reply Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: IIRC, a join semilattice does not actually require these. whether Axel needs to define a join semilattice without those elements is a separate question, that I don't know the answer to

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 9 above)
Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: > In general, having only one of these structures would make the code easier to reason about.

So to explain why I had this - I nearly pulled my hair out trying to reason about LLVM Ints directly as a `constant` in the inductive because now we have to face proofs that involve, say, an LLVM Int with a bitwidth of 8 and an LLVM Int with a bitwidth of 32 both being poison. These poisons are NOT the same! So now we have infinite poisons instead of one. I am not knowledgeable on how to deal with this. Any suggestions? @math-fehr @ineol @regehr

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 6 above)
Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: > why not this?
> ```suggestion
> instance : AbstractDomain AbstractConstant ConcreteConstant where
>   le := le
>   γ := γ
>   le_iff_γ := le_iff_γ
>   le_refl := le_refl
>   le_trans := le_trans
>   le_antisymm := le_antisymm
>   join := .join
>   le_join_left := le_join_left
>   le_join_right := le_join_right
>   join_le := join_le
> 
> 
> ```
How do I refer to `AbstractDomain AbstractConstant ConcreteConstant` in other files? It'd be nice if I could have it as a type as `ConstantDomain`. I think I have a misunderstanding of Lean's type system here. So for the SCCP analysis for example I need to be able to pass around `ConstantDomain`. How can I achieve this?

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean (hunk 1 above)
Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: > IIRC, a join semilattice does not actually require these. whether Axel needs to define a join semilattice without those elements is a separate question, that I don't know the answer to

We could leave them out I believe

Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: Although so far I have always used top and bottom

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean (hunk 3 above)
Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: Thanks for the reference. I'll look at it :)

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 6 above)
Comment (ineol) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: Why do you need to pass around `ConstantDomain`? you can use `AbstractConstant` and the typeclass will allow you to use `join` on elements of `ConstantDomain`. Note that if you want to name the instance you can write `instance ConstantDomain : ...`.

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 9 above)
Comment (ineol) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean]: Can you give a specific example where having `AbstractConstant = ConcreteConstant + top + bottom` is causing trouble?

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean (hunk 1 above)
Comment (ineol) [reply Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]: So in this verasco project they consider join semi lattices with top in their axiomatisation, but not bottom. I think it would make sense to read some AI to know what's what's best. For example I think the join doesn't have to be the _least_ upper bound to get soundness, etc.

**Comment by axelcool1234** [comment]
Note to self: 
```lean
/-- Alias for the top element: value is unknown or conflicting. -/
def unknown : AbstractConstant := ⊤

/-- Alias for the bottom element: no information has been learned yet. -/
def uninitialized : AbstractConstant := ⊥
```

I need to change my stacked PRs to not use this (will remove these defs to avoid confusion).

**Comment by axelcool1234** [comment]
@regehr You'd probably like to see these changes too.

File: Veir/Analysis/DataFlow/Domains/AbstractDomain.lean [hunk 11]
```diff
@@ -0,0 +1,120 @@
...
+  /--
+  The top element denotes every concrete value.
+  -/
+  γ_top : γ (⊤ : AbstractValue) = (⊤ : Set ConcreteValue)
+
+  /--
+  The bottom element denotes no concrete values.
+  -/
+  γ_bot : γ (⊥ : AbstractValue) = (⊥ : Set ConcreteValue)
```
Comment (ineol) [inline Veir/Analysis/DataFlow/Domains/AbstractDomain.lean]:
```suggestion
  γ_top : γ ⊤ = ⊤

  /--
  The bottom element denotes no concrete values.
  -/
  γ_bot : γ ⊥ = ⊥
```

**Review by ineol — COMMENTED** [review]
I like the new definitions :)

I would consider, here or in a later PR, working out how to annotate them with simp/grind so that the proofs become more automatic. Right now you're doing a lot of manual proof automation with `try` and a lot of unfolding, like `le_join_right` in the constant domain file.

**Comment by axelcool1234** [comment]
@ineol I actually tried providing lots of definitions, like defining commutativity, associativity, and more for JoinSemilattice (check the commit called "commented out simp defs") and others. But none of them helped... I'm unfortunately still too new to Lean proofs so I'll need some pointers on this

**Comment by ineol** [comment]
Then let's postpone it to a later PR I think? I think it will be a non trivial amount of work because of the several layers of definitions.

**Comment by axelcool1234** [comment]
> Then let's postpone it to a later PR I think? I think it will be a non trivial amount of work because of the several layers of definitions.

That sounds good with me :)

**Comment by ineol** [comment]
so once you've written the top level comments LGTM

**Comment by axelcool1234** [comment]
> so once you've written the top level comments LGTM

Done!

**Comment by ineol** [comment]
Awesome! Let's at least wait for @math-fehr

**Review by regehr — APPROVED** [review]
Axel I've read this all and it's super nice and readable. It formalizes the stuff that I expect it to formalize. I don't have any issues.

However-- let's wait for our Lean4 / abstract interpretation heavy hitters @ineol and @math-fehr to approve it since they have a ton of experience that I'm missing here.

Separately, I asked Claude what it thinks about the design here and one piece of what it said is something that I totally do not understand. I'm pasting it here just in case this might be helpful to you.

> Latent LE diamond. instance : LE AbstractConstant is defined standalone, then JoinSemilattice extends LE and the instance re-supplies le :=
>   le, while BoundedOrder was proven against the standalone LE. AbstractDomain then merges both. It compiles only because the two LE paths are
>   defeq. Note that Std.IsPartialOrder — which you're extending — deliberately takes [LE α] as a parameter rather than extending it, exactly to
>   avoid this. I'd follow that idiom:
>   class JoinSemilattice (α : Type) [LE α] extends Std.IsPartialOrder α, Join α where ...
>   Then there's one LE source (the standalone instance), the le := field disappears from the instance, and the diamond is gone. BoundedOrder
>   already does this correctly.

**Comment by axelcool1234** [comment]
> Axel I've read this all and it's super nice and readable. It formalizes the stuff that I expect it to formalize. I don't have any issues.
> 
> However-- let's wait for our Lean4 / abstract interpretation heavy hitters @ineol and @math-fehr to approve it since they have a ton of experience that I'm missing here.
> 
> Separately, I asked Claude what it thinks about the design here and one piece of what it said is something that I totally do not understand. I'm pasting it here just in case this might be helpful to you.
> 
> > Latent LE diamond. instance : LE AbstractConstant is defined standalone, then JoinSemilattice extends LE and the instance re-supplies le :=
> >   le, while BoundedOrder was proven against the standalone LE. AbstractDomain then merges both. It compiles only because the two LE paths are
> >   defeq. Note that Std.IsPartialOrder — which you're extending — deliberately takes [LE α] as a parameter rather than extending it, exactly to
> >   avoid this. I'd follow that idiom:
> >   class JoinSemilattice (α : Type) [LE α] extends Std.IsPartialOrder α, Join α where ...
> >   Then there's one LE source (the standalone instance), the le := field disappears from the instance, and the diamond is gone. BoundedOrder
> >   already does this correctly.

Ah, I think this is a very real Lean type system problem. Type inference is like Prolog if you're aware of it - unification and such. But there are issues with diamonds. I think their approach to avoid... conflicts I think... Is to always prefer the left hand side of a "type diamond" or whatever. As you can tell I am also very much weak on this. But I think Claude is telling a very real problem here

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 12]
```diff
@@ -0,0 +1,123 @@
...
+  match x, y with
+  | .bottom, _ => True
+  | _, .top => True
+  | .constant c, .constant d => c = d
+  | _, _ => False
+
+instance : LE AbstractConstant where
+  le := le
+
+@[simp] theorem le_def (a b : AbstractConstant) : (a ≤ b) ↔ le a b := Iff.rfl
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:43]: @ineol @luisacicolini, is this supposed to be `simp`?
I'm asking because I just don't know if this is standard or not.

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 13]
```diff
@@ -0,0 +1,123 @@
...
+
+theorem le_top (a : AbstractConstant) : a ≤ .top := by
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:46]: I guess this should be marked as `simp` and `grind .`

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 14]
```diff
@@ -0,0 +1,123 @@
...
+  cases a <;> trivial
+
+theorem bot_le (a : AbstractConstant) : .bottom ≤ a := by
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:50]: Same here for `simp` and `grind .`

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 12 above)
Comment (math-fehr) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:43]: Especially since the `le` theorems below are shown in terms of `<=` and not in terms of `le`.

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 15]
```diff
@@ -0,0 +1,123 @@
...
+
+instance : Join AbstractConstant where
+  join := join
+
+theorem γ_monotone (a b : AbstractConstant) : a ≤ b → γ a ⊆ γ b := by
+  intro hab x hx
+  cases a <;> cases b <;> simp [γ, le] at hab hx ⊢
+  all_goals first | trivial | exact hx.trans hab
+
+theorem le_refl (a : AbstractConstant) : a ≤ a := by
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:82]: You want to add `simp` and `grind .` for this theorem as well (not the `le_trans` one though).

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean [hunk 16]
```diff
@@ -0,0 +1,123 @@
...
+
+theorem le_join_left (a b : AbstractConstant) : a ≤ a ⊔ b := by
+  cases a <;> cases b <;> try simp [le, join]
+  case constant.constant c d =>
+    by_cases h : c = d <;> simp [h]
+
+theorem le_join_right (a b : AbstractConstant) : b ≤ a ⊔ b := by
+  cases a <;> cases b <;> try simp [le, join]
+  case constant.constant c d =>
+    by_cases h : c = d <;> simp [h]
```
Comment (math-fehr) [inline Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:103]: Can you make these `simp` and `grind .` as well?

**Review by math-fehr — COMMENTED** [review]
Very cool! The design is indeed much better now!
I just added comments about `simp` and `grind` on some lemmas.
In particular, I'm not sure if `le_def` should be `simp` (@luisacicolini and @ineol) would know though.

After that we should be able to merge it!

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 12 above)
Comment (math-fehr) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:43]: Also, I think this should be `grind =`?

Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:43]: Without the simped `le_def` a lot of my theorems fail actually. That's why I have it

**Comment by axelcool1234** [comment]
@math-fehr if you're up for it, I have a commit called "commented out simp defs" I think, that has a _ton_ of additional theorems/lemmas and such that I introduced and then removed. Could you tell me if any of them are remotely useful? None of them ended up helping with proving ConstantDomain.

**Comment by math-fehr** [comment]
I think most of them should be useful? But, please add them AFTER this PR, not in this one.
Many people reviewed this PR already, you don't want to add more noise to it and make them review it again ;)
But as a second PR I think we should try to add most of these!

**Comment by axelcool1234** [comment]
> I think most of them should be useful? But, please add them AFTER this PR, not in this one.
> Many people reviewed this PR already, you don't want to add more noise to it and make them review it again ;)
> But as a second PR I think we should try to add most of these!

Sounds good. I'll need help determining this simp and grind stuff for those. I'll ping you for that PR once this one gets merged :)

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 15 above)
Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:82]: Why no `le_trans`? Does it cause state explosion for `grind` or something?

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 16 above)
Comment (axelcool1234) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:103]: `le_antisymm` can't be simp:
```|
▼ 88:3-88:7: warning:
Left-hand side of simp theorem has a variable as head symbol. This means the theorem will be tried on every simp step, which can be expensive. This may be acceptable for `local` or `scoped` simp lemmas.
Use `set_option warning.simp.varHead false` to disable this warning.
```

Not sure what this means.

**Comment by axelcool1234** [comment]
@math-fehr I have a few comments I left on the last of the unresolved review comments. After that I'm done, and I think this is ready for merging :)

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 15 above)
Comment (ineol) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:82]: @math-fehr the grind doc says

```
opaque R : [Int](https://lean-lang.org/doc/api/Init/Data/Int/Basic.html#Int) → [Int](https://lean-lang.org/doc/api/Init/Data/Int/Basic.html#Int) → Prop
@[grind →] axiom Rtrans {x y z : Int} : R x y → R y z → R x z

example {a b c d} : R a b → R b c → R c d → R a d := by
  grind
```
which only triggers when both R a b and R b c are in the context

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 12 above)
Comment (ineol) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:43]: For sure it shouldn't be here, but I think designing a good simp/grind set and a complete API is a fair amount of work and it might be good to do it in a later PR?

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 15 above)
Comment (math-fehr) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:82]: Ohh, yeah then `grind ->` ^^

File: Veir/Analysis/DataFlow/Domains/ConstantDomain.lean (hunk 16 above)
Comment (math-fehr) [reply Veir/Analysis/DataFlow/Domains/ConstantDomain.lean:103]: Oh sorry, yeah let's not do that, that might be too expensive
So just having `grind .` for the left and right version, and `grind ->` for antisymm

**Comment by axelcool1234** [comment]
Alright @math-fehr, `grind ->` for `le_antisymm` and `le_trans` added

**Comment by math-fehr** [comment]
Can you add the unicode arrow, sorry ;)

**Comment by axelcool1234** [comment]
> Can you add the unicode arrow, sorry ;)

Done :rofl:

**Review by math-fehr — APPROVED** [review]
Thanks!
